US06951879B2
In analogy to example 21.1, 2-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-ethanol and methanesulfonic acid chloride were converted to yield Methanesulfonic acid 2-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-ethyl ester as colorless solid, MS: 430 (MH+).

reactant | 2-[2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-ethanol | CC1=C(C2=C(S1)C=C(C=C2)OCCO)C2=CC=C(C=C2)C(F)(F)F | C18H15F3O2S
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 2-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-ethyl ester | CC1=C(C2=C(S1)C=C(C=C2)OCCOS(=O)(=O)C)C2=CC=C(C=C2)C(F)(F)F | C19H17F3O4S2
